US09145429B2
1j. 5-Chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(tetrahydro-2H-pyran-4-yloxy)nicotinonitrile D240
This compound was prepared from 2,5,6-trichloronicotinamide, tetrahydro-2H-pyran-4-ol, and benzo[c][1,2]oxaborole-1,5(3H)-diol in a similar manner to that of D230. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 2.49-2.5 (m, 2H), 3.06-3.12 (m, 2H), 3.06-3.2 (m, 2H), 3.68-3.73 (m, 2H), 4.51-4.54 (m, 1H), 5.0 (s, 2H), 7.23 (dd, J=6.0, 1.7 Hz, 1H), 7.32 (s, 1H), 7.8 (d, J=6.0 Hz, 1H), 8.57 (s, 1H), 9.25 (s, 1H).

reactant | 2,5,6-trichloronicotinamide | ClC1=C(C(=O)N)C=C(C(=N1)Cl)Cl | C6H3Cl3N2O
reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
product | 5-Chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(tetrahydro-2H-pyran-4-yloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OC1CCOCC1)OC1=CC2=C(B(OC2)O)C=C1 | C18H16BClN2O5
